### PR TITLE
Create `Construction.CoEilenbergMoore`

### PR DESCRIPTION
**Pull request by tetrapharmakon**
Not a stub, everything is ok already

### CODE REVIEW

File: src/Categories/Adjoint/Construction/CoEilenbergMoore.agda [hunk 1]
```diff
@@ -0,0 +1,87 @@
...
+Cofree = record
+ { F₀ = λ A → record
+  { A = F₀ A
+  ; coaction = M.δ.η A
+  ; commute = sym M.assoc
+  ; identity = Comonad.identityʳ M
+  }
+ ; F₁ = λ f → record
+  { arr = F₁ f
+  ; commute = ⟺ (sym (M.δ.commute f))
```
[the remark this answers is not in the document]
Comment (tetrapharmakon) [reply src/Categories/Adjoint/Construction/CoEilenbergMoore.agda:44]: uh, probably a residue of having let `ctrl+A` fill whatever possible...

File: src/Categories/Category/Construction/CoEilenbergMoore.agda [hunk 2]
```diff
@@ -0,0 +1,68 @@
...
+private
+  module C = Category C
+  module M = Comonad M
+  open C
+  open M.F
+  open HomReasoning
+  open Equiv
+
+-- helper for composition in diagrammatic order: bad idea?
+_؛_ : {A B C : Obj} → (f : A ⇒ B) → (g : B ⇒ C) → (A ⇒ C)
```
[the remark this answers is not in the document]
Comment (tetrapharmakon) [reply src/Categories/Category/Construction/CoEilenbergMoore.agda:22]: I have put `;` as a separate definition elsewhere (in another PR)

File: agda-categories.agda-lib [hunk 3]
```diff
@@ -1,3 +1,3 @@
 name: agda-categories
-depend: standard-library-1.7
+depend: standard-library-2.0
```
Comment (tetrapharmakon) [inline agda-categories.agda-lib:2]: I made a mess trying to revert this back to 1.7, after committing it by mistake. What do?

Comment (JacquesCarette) [reply agda-categories.agda-lib:2]: I can try to fix this myself, by pulling this branch.

File: src/Categories/Category/Construction/Properties/CoEilenbergMoore.agda [hunk 4]
```diff
@@ -40,29 +41,43 @@ module _ {F : Functor 𝒟 𝒞} {G : Functor 𝒞 𝒟} (F⊣G : Adjoint F G) w
...
+    ; commute = commute-mor
     }
    ; identity = F.identity
    ; homomorphism = F.homomorphism
    ; F-resp-≈ = F.F-resp-≈
    }
+   where
+    commute-obj : {X : Category.Obj 𝒟} → T.F.F₁ (F.F₁ (unit.η X)) 𝒞.∘ F.F₁ (unit.η X) 𝒞.≈ T.δ.η (F.F₀ X) 𝒞.∘ F.F₁ (unit.η X)
+    commute-obj {X} = begin
+      F.F₁ (G.F₁ (F.F₁ (unit.η X))) 𝒞.∘ F.F₁ (unit.η X) ≈⟨ sym 𝒞 (Functor.homomorphism F) ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Construction/Properties/CoEilenbergMoore.agda:70]: you have `module F` defined, so you can use `F.homomorphism` instead of `Functor.homomophism F`.

File: src/Categories/Category/Construction/Properties/CoEilenbergMoore.agda [hunk 5]
```diff
@@ -40,29 +41,43 @@ module _ {F : Functor 𝒟 𝒞} {G : Functor 𝒞 𝒟} (F⊣G : Adjoint F G) w
...
+      F.F₁ (G.F₁ (F.F₁ (unit.η X)) 𝒟.∘ unit.η X)        ≈⟨ Functor.F-resp-≈ F (Adjoint.unit.sym-commute F⊣G (unit.η X)) ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Construction/Properties/CoEilenbergMoore.agda:71]: You've opened `Adjoint`, so `unit.sym-commute (unit.η X)` should be enough.

File: src/Categories/Category/Construction/Properties/CoEilenbergMoore.agda [hunk 6]
```diff
@@ -40,29 +41,43 @@ module _ {F : Functor 𝒟 𝒞} {G : Functor 𝒞 𝒟} (F⊣G : Adjoint F G) w
...
+      F.F₁ (unit.η (G.F₀ (F.F₀ X)) 𝒟.∘ unit.η X)        ≈⟨ Functor.homomorphism F ⟩
+      T.δ.η (F.F₀ X) 𝒞.∘ F.F₁ (unit.η X)                ∎
+    commute-mor : {A B : Category.Obj 𝒟} {f : Category._⇒_ 𝒟 A B} → F.F₁ (unit.η B) 𝒞.∘ F.F₁ f 𝒞.≈ T.F.F₁ (F.F₁ f) 𝒞.∘ F.F₁ (unit.η A)
```
Comment (JacquesCarette) [inline src/Categories/Category/Construction/Properties/CoEilenbergMoore.agda:74]: `f : 𝒟 [ A , B ]` would be much more readable.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Coming along well.

**Comment by tetrapharmakon** [comment]
@JacquesCarette can you tell us if there's something more to do here? On our (mine and @iwilare 's) side there's nothing to add.

File: src/Categories/Category/Construction/Properties/CoEilenbergMoore.agda [hunk 7]
```diff
@@ -0,0 +1,98 @@
...
+      T.δ.η (F.F₀ X) 𝒞.∘ F.F₁ (unit.η X)                ∎
+    commute-mor : {A B : Category.Obj 𝒟} {f : 𝒟 [ A , B ]} → F.F₁ (unit.η B) 𝒞.∘ F.F₁ f 𝒞.≈ T.F.F₁ (F.F₁ f) 𝒞.∘ F.F₁ (unit.η A)
+    commute-mor {A} {B} {f} = begin
+     F.F₁ (unit.η B) 𝒞.∘ F.F₁ f          ≈⟨ sym 𝒞 (F.homomorphism) ⟩
+     F.F₁ (unit.η B 𝒟.∘ f)               ≈⟨ Functor.F-resp-≈ F (unit.commute f) ⟩
+     F.F₁ (G.F₁ (F.F₁ f) 𝒟.∘ unit.η A)   ≈⟨ F.homomorphism ⟩
+     T.F.F₁ (F.F₁ f) 𝒞.∘ F.F₁ (unit.η A) ∎
+
+
+  private
```
Comment (JacquesCarette) [inline src/Categories/Category/Construction/Properties/CoEilenbergMoore.agda:82]: As far as I can tell, none of these 4 definitions are used below?

File: src/Categories/Category/Construction/CoEilenbergMoore.agda (hunk 2 above)
Comment (JacquesCarette) [inline src/Categories/Category/Construction/CoEilenbergMoore.agda:22]: You were going to delete this from here?

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Sorry, I got stupid busy. This is looking great, just 2 very minor things.

**Review by JacquesCarette — APPROVED** [review]
Perfect, thank you.
